*Sample netlist for BSIM4
*Inverter Transient

.options device temp=25

.include "ASU_47.txt"

* --- Voltage Sources ---
vdd   supply  0 dc 1.0
VIN1  vi 0  dc 0.5V PULSE (0.5V 0V 150ns 5ns 5ns 150ns 310ns)
*vin  vi  0 dc 0.5 sin (0.5 0.5 1MEG)

* --- Inverter Subcircuit ---
.subckt inverter vin vout vdd gnd
Mp1 vout vin vdd gnd pmos W=135n L=45n
Mn1 vout vin gnd gnd nmos W=135n L=45n
.ends

* --- Inverter ---
Xinv1  vi 1 supply 0 inverter
Xinv2  1 2 supply 0 inverter
Xinv3  2 3 supply 0 inverter
Xinv4  3 4 supply 0 inverter
Xinv5  4 vo supply 0 inverter
* --- Transient Analysis ---
.tran 10n 2u

*COMP V(vi) offset=.01
*COMP V(1) offset=.02
*COMP V(2) offset=.03
*COMP V(3) offset=.05
*COMP V(4) offset=.07
*COMP V(vo) offset=.08
.print tran v(vi) v(1) v(2) v(3) v(4) v(vo)

.end

